US09238640B2
Preparation of 5,7-Dimethoxy-2-(4-(4-methyl-1,4-diazepan-1-yl)phenyl)quinazolin-4(3H)-one
To a solution of 2-(4-(1,4-diazepan-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one (0.150 g, 0.39 mmol) in DMF (20 mL) was added CH3I (0.067 g, 0.47 mmol) and Hünig's Base (0.138 mL, 0.79 mmol). The reaction mixture was heated at 50° C. for 1.5 hours, cooled to room temperature, diluted with ethyl acetate (150 mL), washed with brine (2×100 mL), dried over anhydrous MgSO4, filtered, and concentrated. The residue was purified by flash chromatography on silica gel, eluting with 1:1 CH2Cl2/92:7:1 CHCl3/MeOH/concentrated NH4OH to 100% 92:7:1 CHCl3/MeOH/concentrated NH4OH, to afford the title compound (0.035 g, 23%) as a white solid. 1H NMR (300 MHz, DMSO-d6): δ 11.66 (s, 1H), 8.06 (d, J=9.0 Hz, 2H), 6.78 (d, J=9.0 Hz, 2H), 6.65 (d, J=2.2 Hz, 1H), 6.44 (d, J=2.2 Hz, 1H), 3.87 (s, 3H), 3.83 (s, 3H), 3.57-3.59 (m, 2H), 3.52 (t, J=6.1 Hz, 2H), 2.60-2.64 (m, 2H), 2.45-2.50 (m, 2H), 2.26 (s, 3H), 1.89-1.99 (m, 2H). ESI MS m/z 395 [M+H]+.

reactant | 2-(4-(1,4-diazepan-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.39 mmol, 0.150 g | N1(CCNCCC1)C1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C21H24N4O3
reactant | CH3I | 0.47 mmol, 0.067 g | CI | CH3I
reactant | Hünig's Base | 0.79 mmol, 0.138 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 5,7-Dimethoxy-2-(4-(4-methyl-1,4-diazepan-1-yl)phenyl)quinazolin-4(3H)-one | 0.035 g, 23% | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)N1CCN(CCC1)C)=O | C22H26N4O3
